US07906608B2
Synthesis of 2,5-dichloro-4′-(1-imidazolyl)benzophenone
A 2-L three-necked flask equipped with a stirrer, a thermometer, a condenser tube and a nitrogen inlet tube was charged with 150.7 g (0.560 mol) of 2,5-dichloro-4′-fluorobenzophenone, 114.4 g (1.68 mol) of imidazole, 100.6 g (0.728 mol) of potassium carbonate and 840 ml of N,N′-dimethylacetamide. The reaction solution was heated under a nitrogen atmosphere in an oil bath at 110° C. for 2 hours. After thin layer chromatography confirmed that the materials showed no peaks, the reaction liquid was allowed to cool to room temperature. The reaction liquid was slowly added to 3 L of water, and the product was precipitated. The liquid was then filtered. The product obtained by the filtration was dissolved in THF (1.2 L), and toluene (4 L) was added to the solution. The mixture was washed with salt solution until the water phase became neutral. The organic phase was dried over magnesium sulfate, and the solvent was evaporated with an evaporator. A crude product weighing 180 g was obtained. The crude product was subjected to recrystallization using 1 L of toluene and 20 ml of methanol in combination at 80° C., and the resultant crystal was isolated. As a result, 155 g of a white solid was obtained with a yield of 87%. A 1H-NMR spectrum of the compound is shown in FIG. 1.

reactant | 2,5-dichloro-4′-fluorobenzophenone | 0.560 mol, 150.7 g | ClC1=C(C(=O)C2=CC=C(C=C2)F)C=C(C=C1)Cl | C13H7Cl2FO
reactant | imidazole | 1.68 mol, 114.4 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.728 mol, 100.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 3 L | O | H2O
solvent | THF | 1.2 L | C1CCOC1 | C4H8O
solvent | toluene | 4 L | C1(=CC=CC=C1)C | C7H8
product | 2,5-dichloro-4′-(1-imidazolyl)benzophenone | 155 g, yield of 87% | ClC1=C(C(=O)C2=CC=C(C=C2)N2C=NC=C2)C=C(C=C1)Cl | C16H10Cl2N2O
